US09302996B2
N,N-dimethylformamide (11 mL) was added to 2-(4-bromo-2-chlorophenyl)-4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole (220 mg), methyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}-methyl)cyclopropanecarboxylate (201 mg), and palladium chloride (dppf) methylene chloride complex (39 mg), and after adding 2N aqueous sodium carbonate solution (0.72 mL) to the mixture, the atmosphere was replaced with nitrogen and the mixture was stirred at 65° C. for 2 hours. To the reaction mixture were added ethyl acetate and water to extract the objective compound, and the organic layer was washed with a saturated brine, and dried over anhydrous sodium sulfate. After concentrating the mixture under reduced pressure, the obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5 to 80:20) to obtain methyl 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylate (237 mg).

reactant | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
reactant | 2-(4-bromo-2-chlorophenyl)-4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole | 220 mg | BrC1=CC(=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)Cl | C16H19BrClF3N2OSi
reactant | methyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}-methyl)cyclopropanecarboxylate | 201 mg | CC1=CC(=NC=C1B1OC(C(O1)(C)C)(C)C)OCC1(CC1)C(=O)OC | C18H26BNO5
reactant | sodium carbonate | 2N, 0.72 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylate | 237 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CC1)C(=O)OC)C | C28H33ClF3N3O4Si
